US09428470B2
B) 3-(Benzyloxy)-5-methylbenzaldehyde
A mixture of a sulfur trioxide-pyridine complex (2.113 g) and dimethyl sulfoxide (10 mL) was added dropwise to a mixture of (3-(benzyloxy)-5-methylphenyl)methanol (1.01 g), triethylamine (3.08 mL), and dimethyl sulfoxide (5 mL) at room temperature, and the obtained mixture was stirred overnight at room temperature. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with 1 M hydrochloric acid and brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (0.948 g).

reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | (3-(benzyloxy)-5-methylphenyl)methanol | 1.01 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)CO | C15H16O2
reactant | triethylamine | 3.08 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(Benzyloxy)-5-methylbenzaldehyde | 0.948 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)C | C15H14O2
